US08426411B2
N,N-Dibenzyl-3-methyl-4-(3-tosyl-3H-imidazo[1,2-a]pyrrolo[2,3-e]pyrazin-8-yl)cyclopentan-amine (4.47 g, 7.58 mmol, Preparation #51) was dissolved in 1,4-dioxane (40 mL). NaOH (2 N aqueous, 4 mL) was added and the reaction mixture was heated at about 90° C. for about 80 min. The organic solvent was removed under reduced pressure and the residue was treated with saturated aqueous NH4Cl (70 mL) and extracted with DCM (2×60 mL). The combined organic extracts were washed with brine (70 mL), dried over anhydrous MgSO4 and concd under reduced pressure. Purification by silica gel flash chromatography eluting with a gradient of 0-8% MeOH in DCM yielded N,N-dibenzyl-3-(3H-imidazo[1,2-a]pyrrolo[2,3-e]pyrazin-8-yl)-4-methylcyclopentan-amine (1.84 g, 56%) as a yellow oil: LC/MS (Table 1, Method a) Rt=2.31 min; MS m/z 436 (M+H)+.

reactant | N,N-Dibenzyl-3-methyl-4-(3-tosyl-3H-imidazo[1,2-a]pyrrolo[2,3-e]pyrazin-8-yl)cyclopentan-amine | 7.58 mmol, 4.47 g | C(C1=CC=CC=C1)N(C1CC(C(C1)C1=CN=C2N1C1=C(N=C2)N(C=C1)S(=O)(=O)C1=CC=C(C)C=C1)C)CC1=CC=CC=C1 | C35H35N5O2S
reactant | NaOH | 2 N, 4 mL | [OH-].[Na+]
solvent | 1,4-dioxane | 40 mL | O1CCOCC1 | C4H8O2
product | N,N-dibenzyl-3-(3H-imidazo[1,2-a]pyrrolo[2,3-e]pyrazin-8-yl)-4-methylcyclopentan-amine | 1.84 g, 56% | C(C1=CC=CC=C1)N(C1CC(C(C1)C)C1=CN=C2N1C1=C(N=C2)NC=C1)CC1=CC=CC=C1 | C28H29N5
